datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(CC)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(CC)[O]1 10=20;20,21=21"
"[H][NH:10]C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(CC)C(C)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O]C(CC)C(C)[S]1 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC>>CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CCCCCC)C>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C([H])[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C([H])C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[S]1 10=20;20,21=21"
"[H]C1C(O[C:20](N1C)([O-:10])[O:21][H])C>>[H]C1C(O[C:20](=[O:10])N1C)C.[O-:21][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[NH+:10](C)C(C)C([H])C1O>>[NH:10](C)C(C)C([H])C([C:20](OC)=[O:21])O 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C(O)C(O)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(O)C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CCCCCC)[H]>>CCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21]CC 10=20;20,21=21"
"[OH:10]C(CC)/C(C)=C([C:20](OC)=[OH+:21])/O>>[OH:21][C:20]1(OC)[OH+:10]C(CC)C(C)=C1O 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)[H])[H]>>CCCCCCN([C:20]1(OC(C([O:21]1)C)[H])[O-:10])[H] 21=20;20,10=10"
